US05475139
30.2 g of 4-aminophenol was dissolved in 130 ml of N,N-dimethylformamide, followed by the addition of 11.64 g of 57% NaH and agitated at room temperature for 30 rain to obtain a N,N-dimethylformamide solution. 130 ml of toluene and 10.5 g of 57% NaH were added to 41 g of 4-hydroxy ethylbenzoate. After agitation, 45 g of N-phenyl chloroacetamide and 8.7 ml of N,N-dimethylformamide were also added. The toluene recovered from the reflux was reacted with the above N,N-dimethylformamide solution. After that, the N,N-dimethylformamide was recovered and extracted with toluene. 47 g of ethyl 4-phenylaminobenzoate was obtained when the toluene layer of the extraction process was dehydrated with magnesium sulfate. The product yield was 79%.

reactant | 4-aminophenol | 30.2 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | NaH | 11.64 g | [H-].[Na+]
reactant | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
reactant | NaH | 10.5 g | [H-].[Na+]
reactant | N-phenyl chloroacetamide | 45 g | C1(=CC=CC=C1)NC(CCl)=O | C8H8ClNO
reactant | N,N-dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 8.7 ml | CN(C=O)C | C3H7NO
product | ethyl 4-phenylaminobenzoate | 47 g | C1(=CC=CC=C1)NC1=CC=C(C(=O)OCC)C=C1 | C15H15NO2
